US06248765B1
1,1-Dimethylethyl 2-(1H-imidazol-4-yl)ethyl ether
2 mmol of 2-(1-triphenylmethyl-1H-imidazol-4-yl)ethanol and 4 mmol of tert-butyl trichloroacetimidate are dissolved in 4 ml of cyclohexane and 2 ml of dichloromethane. After the addition of 120 μl of boron trifluoride etherate, the solution is stirred at 60-70° C. for 18 hours. Filtration of the reaction mixture and evaporation of the solvent are followed by a detritylation in 2 ml of ethanol, 2 ml of acetone and 15 ml of 2N HCl at 70° C. The ethanol and acetone are removed under reduced pressure and triphenylmethanol is extracted with diethyl ether. The aqueous layer is alkalized with ammonia and extracted with diethyl ether. Evaporation of the solvent and final purification by column chromatography (eluent: dichloromethane/methanol, 90:10) yield the product in the form of an oil, which is crystallized in the form of the hydrogen oxalate in ethanol and diethyl ether.

reactant | 2-(1-triphenylmethyl-1H-imidazol-4-yl)ethanol | 2 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O
reactant | tert-butyl trichloroacetimidate | 4 mmol | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | boron trifluoride etherate | 120 μl | B(F)(F)F.CCOCC
solvent | cyclohexane | 4 ml | C1CCCCC1 | C6H12
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 2-(1H-imidazol-4-yl)ethyl ether | N1C=NC(=C1)CCOC(C)(C)C | C9H16N2O
